US06166006
In dimethoxyethane (100 ml) was dissolved t-butyl 7-(4-ethoxyphenyl)-1-methyl-2,3-dihydro-1-benzazepine-4-carboxylate (4.0 g), and to the mixture was added 6N hydrochloric acid (25 ml). The mixture was refluxed for 3 hours, and the solvent was evaporated. Precipitated yellow powder was filtered and washed with ethyl acetate-hexane to give 7-(4-ethoxyphenyl)-1-methyl-2,3-dihydro-1-benzazepine-4-carboxylic acid hydrochloride (3.8 g).

reactant | t-butyl 7-(4-ethoxyphenyl)-1-methyl-2,3-dihydro-1-benzazepine-4-carboxylate | 4.0 g | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C)C(=O)OC(C)(C)C)C1 | C24H29NO3
reactant | hydrochloric acid | 6N, 25 ml | Cl | ClH
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | 7-(4-ethoxyphenyl)-1-methyl-2,3-dihydro-1-benzazepine-4-carboxylic acid hydrochloride | 3.8 g | Cl.C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C)C(=O)O)C1 | InChI=1S/C20H21NO3.ClH/c1-3-24-18-7-4-14(5-8-18)15-6-9-19-17(12-15)13-16(20(22)23)10-11-21(19)2;/h4-9,12-13H,3,10-11H2,1-2H3,(H,22,23);1H
